US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 6-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one (2.19 g, 5.48 mmol) by reaction with m-CPBA (1.35 g, 6.03 mmol) to provide 6-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one followed by reaction with p-toluenesulfonyl chloride (1.15 g, 6.03 mmol) and ammonium hydroxide solution (9 mL) to provide 6-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one (0.50 g) as a white solid after chromatography on silica gel (elution with 10% methanol in dichloromethane) and recrystallization from ethanol, mp 149-151° C.

reactant | 6-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one | 5.48 mmol, 2.19 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCC(=O)C1=CC=CC=C1 | C26H29N3O
reactant | m-CPBA | 6.03 mmol, 1.35 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 6-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCCCCC(=O)C1=CC=CC=C1 | C26H29N3O2
